* C:\Users\JAHNAVI\Downloads\files (5)\rain_detector.asc
* Generated by LTspice 26.0.1 for Windows.
V1 0 0 PULSE(0 5 0 1n 1n 1 2) 5
R1 0 0 10k
R_rain 0 NC_01 {R_sensor}
R_thresh 0 NC_02 10k
R_thresh2 0 NC_03 10k
X§U1 NC_04 NC_05 NC_06 0 N001 NC_07 NC_08 0 LT1011 ;§pnba GND)In+)In-)V-)BAL)STROBE)OUT)V+
R_pull 0 0 10k
R_LED N001 0 470
D1 N001 0 1N4148
.model D D
.lib C:\Users\JAHNAVI\AppData\Local\LTspice\lib\cmp\standard.dio
* ââââ PARAMETRIC SWEEP: Rain Sensor Resistance ââââ
* .step param R_sensor list 10MEG 1MEG 100k 10k 5k 1k 500
*    10MEG = Completely Dry (open sensor)
*    1MEG  = Humid air
*    100k  = Moisture condensation
*    10k   = Light drizzle
*    5k    = Moderate rain
*    1k    = Heavy rain
*    500   = Sensor submerged
* ââââ DC OPERATING POINT ââââ
* .op
* ââââ PARAMETRIC DC SWEEP ââââ
* .dc param R_sensor 500 10MEG 500
* ââââ CURRENT MEASUREMENTS (.meas) ââââ
* .meas DC I_SENSOR   find I(R1)     ; Sensor branch current (ÂµA)
* .meas DC I_LED_RMS  find I(R_LED)  ; LED current (mA)
* .meas DC I_PULLUP   find I(R_pull) ; Pull-up branch current
* .meas DC I_SUPPLY   find I(V1)     ; Total supply current
* .meas DC V_NODE_A   find V(NODE_A) ; Sensor node voltage
* .meas DC V_THRESH   find V(THRESH) ; Comparator threshold
* ââââ ENABLE ONE ANALYSIS AT A TIME ââââ
*   Remove semicolon from the analysis you want to run.
*   Recommended first run: .op with R_sensor = 10k (light rain)
* .step param R_sensor list 10MEG 100k 10k 1k 500
* .op
* âââââââââââââââââââââââââââââââââ
* â  EXPECTED CURRENTS            â
* â  (VCC=5V, R_pull=10k, R_LED=470Î©) â
* â ââââââââââââââââââââââââââââââââ£
* â  DRY  (R>1MEG):               â
* â    I_sensor  â  0â5 ÂµA        â
* â    I_LED     =  0 mA (OFF)    â
* â    I_supply  â  0.5â1 mA      â
* â ââââââââââââââââââââââââââââââââ£
* â  WET  (R_rain â 5kâ10k):      â
* â    I_sensor  â 250â500 ÂµA     â
* â    I_LED     â 5â6.3 mA       â
* â    I_supply  â 7â8 mA         â
* âââââââââââââââââââââââââââââââââ
.ac dec 100 10 100
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\JAHNAVI\AppData\Local\LTspice\lib\sym\Comparators\LT1011.asy)
.lib LT1011.sub
.backanno
.end
